US06589984B1
Pyridine (64 μl) and benzoyl chloride (45 μl) were added to a suspension of 6-(benzofuran-2-yl)-3,5-dimethyl-4-hydroxy-2H-pyran-2-one (40 mg) in CH2Cl2 (5 ml), and the mixture was stirred at room temperature for 50 minutes. The reaction solution was poured into a KHSO4 aqueous solution and extracted with AcOEt, and the organic layer was rinsed with saturated saline and dried with MgSO4, and then filtered and concentrated. The residue was purified by silica gel column chromatography (n-hexane/AcOEt=5/1→4/1) to obtain 6-(benzofuran-2-yl)-4-benzoyloxy-3,5-dimethyl-2H-pyran-2-one.

reactant | Pyridine | 64 μl | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 45 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 6-(benzofuran-2-yl)-3,5-dimethyl-4-hydroxy-2H-pyran-2-one | 40 mg | O1C(=CC2=C1C=CC=C2)C2=C(C(=C(C(O2)=O)C)O)C | C15H12O4
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 6-(benzofuran-2-yl)-4-benzoyloxy-3,5-dimethyl-2H-pyran-2-one | O1C(=CC2=C1C=CC=C2)C2=C(C(=C(C(O2)=O)C)OC(C2=CC=CC=C2)=O)C | C22H16O5
